US06756359B2
To 2-[2-(Methyl-quinolin-2-ylmethyl-amino)-ethyl]-isoindole-1,3-dione (1 eq) in Ethanol was added hydrazine (2 eq). A Reflux condenser was attached and the solution was heated 65° C. for 19 hours. The solution was then filtered, concentrated, and co-evaporated from toluene to yield N1-Methyl-N1-quinolin-2-ylmethyl-ethane-1,2-diamine in quantitative yield as a dark oil. MH+(216).

reactant | 2-[2-(Methyl-quinolin-2-ylmethyl-amino)-ethyl]-isoindole-1,3-dione | 1 eq | CN(CCN1C(C2=CC=CC=C2C1=O)=O)CC1=NC2=CC=CC=C2C=C1 | C21H19N3O2
reactant | hydrazine | 2 eq | NN | H4N2
solvent | Ethanol | C(C)O | C2H6O
product | N1-Methyl-N1-quinolin-2-ylmethyl-ethane-1,2-diamine | quantitative yield | CN(CCN)CC1=NC2=CC=CC=C2C=C1 | C13H17N3
